US06063782
5-[3-(4-Fluorophenyl)propionyl]-2,3-dimethyl-1-(2-propenyl)pyrrole
The title compound was prepared as a pale yellow oil in 60.3% yield in a similar procedure to that described in Referential Example 97 by using. -5-[3-(4-fluorphenyl)propionyl)-2,3-dimethylpyrrole and 3-bromo-1-propene.

reactant | 5-[3-(4-fluorphenyl)propionyl)-2,3-dimethylpyrrole | FC1=CC=C(C=C1)CCC(=O)C1=CC(=C(N1)C)C | C15H16FNO
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
product | 5-[3-(4-Fluorophenyl)propionyl]-2,3-dimethyl-1-(2-propenyl)pyrrole | 60.3% yield | FC1=CC=C(C=C1)CCC(=O)C1=CC(=C(N1CC=C)C)C | C18H20FNO
